US04387238
To a suspension of monoethyl potassium epoxysuccinate (0.77 g) in ethyl ether (30 ml), oxalyl chloride (0.75 g) in ethyl ether was added dropwise with stirring under ice-cooling and the mixture was stirred for an hour at room temperature. To the resulting mixture, a solution of N-carbobenzoxy 1,4-diaminobutane (1.1 g) and triethylamine (0.48 g) in ethyl ether was added dropwise with stirring under ice-cooling, and the mixture was stirred for an additional hour at room temperature. The resulting precipitate was filtered off and the filtrate was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated to dryness. The residue was purified by silica gel column chromatography using benzene as a developer. The crude crystals thus obtained were recrystallized from acetone-n-hexane to give 0.97 g of ethyl N-carbobenzoxyaminobutyl-2,3-epoxysuccinamate (Compound No. 68) as colorless plates melting at 94°-95° C.

reactant | monoethyl potassium epoxysuccinate | 0.77 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 0.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-carbobenzoxy 1,4-diaminobutane | 1.1 g | C(=O)(OCC1=CC=CC=C1)NCCCCN | C12H18N2O2
reactant | triethylamine | 0.48 g | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | ethyl N-carbobenzoxyaminobutyl-2,3-epoxysuccinamate | 0.97 g | C(=O)(OCC1=CC=CC=C1)NCCCCNC(C1C(C(=O)OCC)O1)=O | C18H24N2O6
